US08383657B2
N-[(2Z)-3-(4-benzylphenyl)-5-methyl-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide
In a 4 mL vial charged with a stir bar, N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide (58 mg, 0.27 mmol) was added, followed by copper(I) trifluoromethanesulfonate benzene complex (27 mg, 0.05 mmol), 5-chloro-1,10-phenanthroline (23 mg, 0.11 mmol) and cesium carbonate (97 mg, 0.3 mmol). A loose cap with septum was placed on the vial, and the vial was placed under vacuum in a vacuum oven for 30 minutes. The solid mixture was purged with nitrogen gas a couple of times. Then, 1-benzyl-4-bromobenzene (74 mg, 0.3 mmol) dissolved in 1-methyl-2-pyrrolidinone (1.0 mL) was added to the mixture. The vial was capped and placed on a heater/stirrer and heated to 120° C. overnight. Then 1 mL of a solution of concentrated ammonium hydroxide/water (1:2) was added. The reaction was filtered and concentrated to dryness. The residue was purified by reverse phase HPLC (C8, gradient 10-100% acetonitrile/water/0.1% trifluoroacetic acid).

reactant | N-(5-methyl-1,3-thiazol-2-yl)pyrrolidine-1-carboxamide | 0.27 mmol, 58 mg | CC1=CN=C(S1)NC(=O)N1CCCC1 | C9H13N3OS
reactant | 5-chloro-1,10-phenanthroline | 0.11 mmol, 23 mg | ClC1=C2C=CC=NC2=C2N=CC=CC2=C1 | C12H7ClN2
reactant | cesium carbonate | 0.3 mmol, 97 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-benzyl-4-bromobenzene | 0.3 mmol, 74 mg | C(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C13H11Br
reactant | ammonium hydroxide water | [OH-].[NH4+].O
solvent | 1-methyl-2-pyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | N-[(2Z)-3-(4-benzylphenyl)-5-methyl-1,3-thiazol-2(3H)-ylidene]pyrrolidine-1-carboxamide | C(C1=CC=CC=C1)C1=CC=C(C=C1)N1/C(/SC(=C1)C)=N/C(=O)N1CCCC1 | C22H23N3OS
